US08710061B2
N2-(4-bromo-3-methoxyphenyl)-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine
A mixture of 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine (Preparation Ga) (0.24 g, 0.924 mmol), 4-bromo-3-methoxyaniline (0.187 g, 0.924 mmol) and H2SO4 (0.064 mL, 1.201 mmol) in NMP (Volume: 2 mL) was stirred in a sealed microwave tube at 90° C. overnight. The reaction was poured into 20 mL of water. The precipitate was collected by filtering. The cake was air dried. The cake was triturated with a minimum amount of cold MeOH to get 0.36 g (84%) of product as an off-white solid. LC-MS (M+H)+=425.2. 1H NMR (400 MHz, DMSO-d6) δ ppm 10.39 (1 H, br. s.), 7.68 (1 H, d, J=1.51 Hz), 7.53 (1 H, d, J=8.53 Hz), 7.34-7.42 (2 H, m), 7.24-7.34 (3 H, m), 6.94 (1 H, dd, J=8.66, 2.38 Hz), 4.36-4.51 (1 H, m), 3.83 (3 H, s), 3.05 (3 H, d, J=4.52 Hz), 2.79-2.95 (1 H, m), 2.59-2.77 (2 H, m), 1.93-2.12 (1 H, m).

reactant | 2-chloro-N-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidin-4-amine | 0.924 mmol, 0.24 g | ClC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC | C14H14ClN3
reactant | 4-bromo-3-methoxyaniline | 0.924 mmol, 0.187 g | BrC1=C(C=C(N)C=C1)OC | C7H8BrNO
reactant | H2SO4 | 1.201 mmol, 0.064 mL | OS(=O)(=O)O | H2O4S
reactant | water | 20 mL | O | H2O
solvent | NMP | 2 mL | CN1CCCC1=O | C5H9NO
product | N2-(4-bromo-3-methoxyphenyl)-N4-methyl-7-phenyl-6,7-dihydro-5H-cyclopenta[d]pyrimidine-2,4-diamine | 0.36 g, 84% | BrC1=C(C=C(C=C1)NC=1N=C(C2=C(N1)C(CC2)C2=CC=CC=C2)NC)OC | C21H21BrN4O
